US07179823B1
Sodium hydride (60%, oily, 200 mg) was added to an N,N-dimethylformamide solution (15 ml) of ethyl 3-(3-phenyl-1H-pyrazole-4-yl)propionate (1.04 g) at 0° C., which was stirred at 0° C. for 30 minutes. 4-[2-(4-Chloromethylphenoxy)ethyl]-5-methyl-2-phenyloxazole (1.43 g) was added to the reaction mixture, which was stirred at room temperature overnight. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatography, and an oily substance was obtained from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). A mixture of the substance obtained, 1N aqueous sodium hydroxide solution (4 ml), ethanol (5 ml) and tetrahydrofuran (5 ml) was stirred for 2 hours at room temperature. The reaction mixture was acidified with dilute hydrochloric acid, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The crystals obtained were collected by filtration to yield 3-[1-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]-3-phenyl-1H-pyrazol-4-yl]propionic acid (930 mg, yield: 71%). This was recrystallized from acetone-hexane. Melting point: 142–143° C.

reactant | Sodium hydride | 200 mg | [H-].[Na+]
reactant | ethyl 3-(3-phenyl-1H-pyrazole-4-yl)propionate | 1.04 g | C1(=CC=CC=C1)C1=NNC=C1CCC(=O)OCC | C14H16N2O2
reactant | 4-[2-(4-Chloromethylphenoxy)ethyl]-5-methyl-2-phenyloxazole | 1.43 g | ClCC1=CC=C(OCCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C19H18ClNO2
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-[1-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]-3-phenyl-1H-pyrazol-4-yl]propionic acid | 930 mg, yield: 71% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(CN2N=C(C(=C2)CCC(=O)O)C2=CC=CC=C2)C=C1 | C31H29N3O4
